US04766215
2-[4-[3-[bis(4-fluorophenyl)methoxy]propyl]-1-piperazinyl]-6-chloropyrazine
To a stirred solution of 1-(6-chloro-2-pyrazinyl)-4-piperazinyl propanol 3 g. (0.013 mol) in 50 ml. of dimethylformamide was added 3.3 g. (0.017 mol) of bis(4-fluorophenyl)methylbromide and 2.6 g. (0.034 mol) of sodium bicarbonate. The reaction mixture was refluxed overnight, dimethylformamide was evaporated under vacuum and the residue was extracted with methylene chloride (3×400 ml.). The methylene chloride extracts were collected, washed with water and dried (anhydrous Na2SO4). Evaporation of the methylene chloride afforded the title compound as a brown oil. HPLC purification afforded 2 g. (37% yield) of the pure product. It was converted to the (1:1) fumarate salt and recovered as the hemihydrate; m.p. 165°-167° C.

reactant | 1-(6-chloro-2-pyrazinyl)-4-piperazinyl propanol | 3 g | ClC1=CN=CC(=N1)N1CCN(CC1)C(CC)O | C11H17ClN4O
reactant | bis(4-fluorophenyl)methylbromide | 0.017 mol | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)Br | C13H9BrF2
reactant | sodium bicarbonate | 0.034 mol | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[4-[3-[bis(4-fluorophenyl)methoxy]propyl]-1-piperazinyl]-6-chloropyrazine | FC1=CC=C(C=C1)C(OCCCN1CCN(CC1)C1=NC(=CN=C1)Cl)C1=CC=C(C=C1)F | C24H25ClF2N4O
